US05242911
3-(4-[4-(2-Pyrimidinyl)-1-piperazinyl]-butyl)-3-azabicyclo[3.3.1]nonan-2,4-dione
Following substantially the procedure of Example 1, 2.78 g (11.8 mmol) of 1-(4-aminobutyl)-4-(2-pyrimidinyl) piperazine was reacted with 1.88 g (12.2 mmol) of 3-oxabicyclo[3.3.1]nonan-2,4-dione. The product was chromatographed on silica gel, eluting with dichloromethane/methanol (90:10), to give 2.04 g (47% yield) of the title compound.

reactant | 1-(4-aminobutyl)-4-(2-pyrimidinyl) piperazine | 11.8 mmol, 2.78 g | NCCCCN1CCN(CC1)C1=NC=CC=N1 | C12H21N5
reactant | 3-oxabicyclo[3.3.1]nonan-2,4-dione | 12.2 mmol, 1.88 g | C12C(OC(C(CCC1)C2)=O)=O | C8H10O3
product | 3-(4-[4-(2-Pyrimidinyl)-1-piperazinyl]-butyl)-3-azabicyclo[3.3.1]nonan-2,4-dione | 2.04 g, 47% yield | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1C(C2CCCC(C1=O)C2)=O | C20H29N5O2
